US08557809B2
Step J: Preparation of tert-butyl (1-(2-(7-(1,2-dihydroxyethyl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)quinolin-8-yl)piperidin-4-yl)methylcarbamate
To tert-butyl (1-(2-(7-vinyl-[1,2,4]triazolo[4,3-a]pyridin-3-yl)quinolin-8-yl)piperidin-4-yl)methylcarbamate (68 mg, 0.14 mmol) in acetone (2 mL) was added OsO4 (178 mg, 0.014 mmol) (2% in tBuOH) and 4-methylmorpholine N-oxide (49 mg, 0.21 mmol) (50% in H2O). The reaction was stirred for 2 hours and then concentrated. The crude material was purified by silica gel chromatography (20:1 Hexane/EtOAc) to provide the final product.

reactant | tert-butyl (1-(2-(7-vinyl-[1,2,4]triazolo[4,3-a]pyridin-3-yl)quinolin-8-yl)piperidin-4-yl)methylcarbamate | 0.14 mmol, 68 mg | C(=C)C1=CC=2N(C=C1)C(=NN2)C2=NC1=C(C=CC=C1C=C2)N2CCC(CC2)CNC(OC(C)(C)C)=O | C28H32N6O2
reactant | 4-methylmorpholine N-oxide | 0.21 mmol, 49 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | acetone | 2 mL | CC(=O)C | C3H6O
catalyst | OsO4 | 0.014 mmol, 178 mg | O=[Os](=O)(=O)=O
product | tert-butyl (1-(2-(7-(1,2-dihydroxyethyl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)quinolin-8-yl)piperidin-4-yl)methylcarbamate | OC(CO)C1=CC=2N(C=C1)C(=NN2)C2=NC1=C(C=CC=C1C=C2)N2CCC(CC2)CNC(OC(C)(C)C)=O | C28H34N6O4
